US04014920
41.2 g (0.02 mol) of p-acetoxy-cinnamic acid are suspended in 100 ml of benzene and 29 ml (0.4 mol) of thionyl chloride are added. The reaction mixture is heated to the boil under a reflux condenser for half an hour and thereafter the solvent and excess thionyl chloride are removed by distillation in vacuo. The crude p-acetoxy-cinnamic acid chloride which remains is dissolved in 200 ml of absolute dimethoxyethane, 39 g (0.6 mol) of sodium azide are added and thereafter the mixture is stirred for 48 hours at room temperature. The inorganic salts are then filtered off and the filtrate is concentrated in vacuo at 30°C. Hereupon, colourless crystals separate out. The crystallisation is completed by adding ether. p-Acetoxy-cinnamic acid azide of melting point 114°C (decomposition) is obtained.

reactant | p-acetoxy-cinnamic acid | 0.02 mol, 41.2 g | C(C)(=O)OC1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
reactant | thionyl chloride | 0.4 mol, 29 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 0.6 mol, 39 g | [N-]=[N+]=[N-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | p-Acetoxy-cinnamic acid azide | C(C)(=O)OC1=CC=C(C=CC(=O)N=[N+]=[N-])C=C1 | C11H9N3O3
